US09334269B2
To a stirred solution of 1-ethyl-1′-methylspiro[indoline-3,4′-piperidin]-2-one (0.0046 mol) in toluene (41.6 mL) was added 2,2,2 trichloro ethyl chloroformate (6.23 mL, 0.046 mol) at 0° C. and the reaction mixture was heated at reflux for 18 h. Progress of the reaction was monitored by TLC. The reaction mixture was cooled to RT, diluted with EtOAc (2×50 mL) and washed with water (2×12 mL) and brine (12 mL). The organic portions were combined, dried over Na2SO4 and evaporated under reduced pressure. The crude product was taken up in acetic acid (12.0 mL) and Zn (4.1 g, 0.062 mol) and was added portion wise at 0° C. The reaction mixture was allowed to stir at RT for 1 h. Progress of the reaction was monitored by TLC. The reaction mixture was filtered through Celite® (diatomaceous earth) and washed with EtOAc (2×20 mL), basified using saturated NH4OH solution (15.0 mL) and extracted with DCM (2×40 mL). the organic portions were combined, dried over Na2SO4 and evaporated under reduced pressure to obtain crude 1-ethylspiro[indoline-3,4′-piperidin]-2-one (42%).

reactant | 1-ethyl-1′-methylspiro[indoline-3,4′-piperidin]-2-one | 0.0046 mol | C(C)N1C(C2(CCN(CC2)C)C2=CC=CC=C12)=O | C15H20N2O
solvent | toluene | 41.6 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Zn | 0.062 mol, 4.1 g | [Zn] | Zn
product | 1-ethylspiro[indoline-3,4′-piperidin]-2-one | 42% | C(C)N1C(C2(CCNCC2)C2=CC=CC=C12)=O | C14H18N2O
